### PR TITLE
Tutorial Equations: well-founded recursion

### PR DESCRIPTION
**Pull request by thomas-lamiaux**
A tutorial explaining how to use Equations to define functions by well-founded recursion, and how to reason about such functions.

There is left to :
- [x] Write some text in the intro to well-founded recursion, section 1.1
- [x] Solve the issues with the ackerman function, section 1.2
- [x] Better text for definition using obligations
- [X] ~~Find a good examples for subterm relation, section 2.1~~

### CODE REVIEW

**Comment by thomas-lamiaux** [comment]
The tutorial is now ready to be reviewed. It :
1. add a new tutorial
2. adds a paragraph to CONTRIBUTING about discussing what does not work
3. makes marginal modifications to Tutorial_Equations_basics and README

File: src/Tutorial_Equations_wf.v [hunk 1]
```diff
@@ -0,0 +1,773 @@
...
+          end)
+      y x.
+
+
+(** However, doing so has several disadvantages.
+    The function is much less transparent than a usual definition by [Fixpoint]
+    as:
+    - there is an explicit fixpoint combinator [Fix] in the definition
+    - it forced us to use curryfication and the order of the arguments has changed
+    - there is are explicit proof appearing in the definition of the function,
```
Comment (terencode) [inline src/Tutorial_Equations_wf.v:208]: Typo

File: src/Tutorial_Equations_wf.v [hunk 2]
```diff
@@ -0,0 +1,773 @@
...
+last (a::(a'::l)) := last (a'::l).
+
+(** Defining [last] by well-founded recursion is hence effortless and the
+    the definition is as legible as we would hope.
+
+    Moreover, thanks to functional elimination through [funelim], we can reason
+    about function defined by well-founded recursion without having to repeat
+    the well-founded induction principle.
+    For each recursive call, the tactic [funelim] will create a goal
+    goal and an induction hypothesis where all the dependent terms have been
```
Comment (terencode) [inline src/Tutorial_Equations_wf.v:271]: Typo

File: src/Tutorial_Equations_wf.v [hunk 3]
```diff
@@ -0,0 +1,773 @@
...
+    As it can be seen below it works perfectly, and Coq is even able to
+    prove the call is terminating on its own leaving us no obligations
+    to fill.
+*)
+
+  Equations f_sequence (a : A) : list A by wf a lt :=
+    f_sequence a with inspect (f a) := {
+      | Some p eqn: eq1 => p :: f_sequence p;
+      | None eqn:_ => List.nil
+      }.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:649]: In that case, it might be instructive to deactivate the obligation mechanism to show the new goal.

File: src/Tutorial_Equations_wf.v [hunk 4]
```diff
@@ -0,0 +1,773 @@
...
+
+End Inspect.
+
+
+(** *** 2.2 Personalising the tactic proving obligations
+
+    When working, it is common to be dealing with a particular class of
+    functions that shares a common theory, e.g, they involves basic
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:657]:
```suggestion
    functions that share a common theory, e.g, they involve basic
```

File: src/Tutorial_Equations_wf.v [hunk 5]
```diff
@@ -0,0 +1,773 @@
...
+Show Obligation Tactic.
+
+(** The obligations generated are not complicated to prove but tedious,
+    and they can actually be solved automatically via the arithmetic
+    solver [lia].
+    Therefore, we would like to locally change the tactic solving the
+    obligations to take into account arithmetic, and try lia.
+
+    To do so, we use the command [ #[local] Obligation Tactic := tac ]
+    to change locally the tactic solving obligation to a tactic [tac].
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:707]:
```suggestion
    to locally change the tactic solving obligation to a tactic [tac].
```

**Review by MevenBertrand — COMMENTED** [review]
I've found this tuto a bit more messy than the previous one. I feel my main issues were the following.

There is a lot of knowledge which is not specifically about well-founded induction, but rather about how to generally go about the obligation mechanism. They are scattered through the tutorial as things go, which makes them not so visible. Maybe having a self-contained presentation of this mechanism (`Equation` vs `Equations?`, printing and (locally) changing the obligation tactic, printing the obligations with `Obligations`, being careful that no obligations are left, etc.), either in this tutorial, in the one of Equations' basics, or a self-contained one. 

I found the presentation of well-founded induction unclear: the first example, `last`, is a very specific limitation of the guard-checker of Coq, but it is really at the border, and thus not very enlightening. The examples of `nubBy` or `gcd`, which require non-trivial reasoning, are more to the point. Ackerman is nice to introduce lexical ordering, but I feel like this can come slightly later. I would rather start by using a measure with the well-founded order `lt` on `nat` (which btw Equation picks by default if you write only `by wf (length l)`), and introduce lexical order in a second time as a more advanced example. Also, I'm not sure a reader would be able to understand the current 1.1 if they do not *already* have heard about proofs of termination for functions, well-founded orders, etc.

I know it was a frustrating experience in the writing of the tutorial, and that it's good to give users ways to circumvent issues when they pop up rather than pretending everything is fine, but I feel a lot of cognitive load in 1.2 is spent of `funelim` and `rewrite` going wrong. This somehow deflects from the "main point" of the tutorial into subtle, more advanced issues.

Also, a few suggestions on more things that might be useful to have in this tutorial:
- usage of `map` and friends which remember which list an element was in (something similar in spirit to the `inspect` pattern, see for instance [here](https://coq.zulipchat.com/#narrow/stream/237659-Equations-devs-.26-users/topic/Solving.20equations.20obligations) and [here](https://coq.zulipchat.com/#narrow/stream/237659-Equations-devs-.26-users/topic/Termination.20with.20higher-order.20functions))
- using the database [WellFounded], possibly in combination with `Derive` to obtain the subterm relation and an automatic proof that it is well-founded. Very useful for well-founded induction which is more or less structural but more complicated than what the guard detects (for instance, if one want to do the `last` example without resorting to `length` but directly by a well-founded order on lists)

It's a long review with a lot of comments, but I must say this tuto is still a nice step in the right direction of making Equations more accessible!

**Comment by thomas-lamiaux** [comment]
The comment's are good and I'll look into them. An issue I have is that I lack simple examples. Would you have some to share @MevenBertrand  ?

**Comment by thomas-lamiaux** [comment]
Also the issue with ack in 1.2 is that it is supposed to be basic and yet it doesn't work as you would expect. 
Though to make it clearer I can move it to a section 3.

**Comment by thomas-lamiaux** [comment]
@MevenBertrand could you review the file tutorial about obligations and tell me if it is looks good to you ? 
Btw, I could also use help for the 2.2 part

**Review by MevenBertrand — COMMENTED** [review]
I only looked at the obligations tutorial, lgtm up to some minor polishing. And I think it is much better to factor this out like it is done now.

File: src/Tutorial_Equations_Obligations.v [hunk 6]
```diff
@@ -0,0 +1,307 @@
...
+Defined.
+
+(** Though, note that [Equations?] triggers a warning when used on a definition
+    that leaves no obligations unsolved.
+    It is because for technical reasons, [Equations?] cannot check if there
+    is at least on obligation left to solve before opening the proof mode.
+    Hence, when there is no obligation proof mode is open for nothing, and
+    has to be closed by hand using [Qed] or [Defined] as it can be seen below.
+    As it is easy to forget, a warning is raised.
+*)
```
[the remark this answers is not in the document]
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_Obligations.v:184]: I was actually thinking about that. I have no idea of the behavior we get. I'll talk to Mathieu about that tomorrow

File: src/Tutorial_Equations_wf.v [hunk 7]
```diff
@@ -0,0 +1,621 @@
...
+    This allows to separate the proofs that the recursive call are smaller
+    from the definition of the function, making it easier to read and define
+    while dealing automatically with trivial cases.
+    Moreover, it enables us to prove arguments directly in the proof mode using
+    tactics.
+
+    In the following, we assume basic knowledge of obligations as discussed
+    in the (short) tutorial Equations: obligations.
+
+    ** 2.1 Using a size argument
```
Comment (Lysxia) [inline src/Tutorial_Equations_wf.v:246]: Instead of framing the 2.1 and 2.2 examples as "size vs measure" I think it would be clearer to only talk about "measure", then 2.1 gives a simple example (where the measure depends on one argument), and 2.2 shows that the measure can depend on all of the arguments.

Comment (thomas-lamiaux) [reply src/Tutorial_Equations_wf.v:246]: I was thinking about it and hesitating. I'll do that, thanks.

**Comment by thomas-lamiaux** [comment]
Ready to be reviewed again

File: src/Tutorial_Equations_wf.v [hunk 8]
```diff
@@ -0,0 +1,713 @@
...
+    We define a relation [R : nat -> nat -> nat] such that [n] is "smaller" than
+    "m" when [n = 1 + m] and that all booleans before [m] are [false],
+    i.e [forall k, k <= m -> f k = false].
+*)
+
+Definition R n m := (forall k, k <= m -> f k = false) /\ n = S m.
+
+(** Knowing that the previous booleans have been [false] enables us to prove
+    that [R] is well-founded when combined with [h].
+    We omit the proof here because it is a bit long, and not very interesting
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:495]: I'm not sure this is a good approach, as it is not trivial that `R` is well-founded, and you are thus hiding the interesting part of the argument?

Here is a relatively compact proof:
```
Proof.
    intros [m h] n.
    assert (forall k, m <= k -> Acc R k).
    {
      constructor. intros ? [h' ->].
      specialize (h' m ltac:(auto)).
      congruence.
    }
    destruct (le_lt_dec m n).
    1: auto.
    specialize (H m ltac:(auto)).
    pose proof (Nat.sub_add n m ltac:(lia)) as e.
    set (k := m - n) in * ; clearbody k.
    subst.
    clear h l.
    induction k.
    - easy.
    - apply IHk.
      constructor.
      intros ? [? ->].
      assumption.
  Qed.
```

File: src/Tutorial_Equations_wf.v [hunk 9]
```diff
@@ -0,0 +1,713 @@
...
+Admitted.
+
+(** Having proven it is well-founded, we declare it as an instance of the database
+    [WellFounded] so that [Equations] can find it automatically when using the
+    keyword [wf x R].
+*)
+
+Instance wfR : WellFounded R := wf_R h.
+
+(** We are not ready to define our function by well-founded recursion.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:510]:
```suggestion
(** We are now ready to define our function by well-founded recursion.
```

File: src/Tutorial_Equations_wf.v [hunk 10]
```diff
@@ -0,0 +1,713 @@
...
+    Here, for technical reason we use the [inspect] method to remember the value of [f m].
+    Here, it is not necessary to understand it for our purpose, and we refer to
+    section 2.1 for more details on the method.
+ *)
+
+Definition inspect {A} (a : A) : {b | a = b} := exist _ a eq_refl.
+
+Notation "x 'eqn:' p" := (exist _ x p) (only parsing, at level 20).
+
+(** Though, we want to start a computation at 0, to define our function
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:521]:
```suggestion
(** Even though we want to start a computation at 0, to define our function
```

File: src/Tutorial_Equations_wf.v [hunk 11]
```diff
@@ -0,0 +1,713 @@
...
+- unfold R. split. 2: reflexivity.
+  intros k ikm. inversion ikm. 1: assumption.
+  subst. apply H. auto with arith.
+Qed.
+
+Theorem linear_search : {n : nat | f n = true}.
+Proof.
+  unshelve eapply (exists_nat 0).
+  intros n Hn0; inversion Hn0.
+Qed.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:543]:
```suggestion

Equations? linear_search : {n : nat | f n = true} :=
  linear_search := exists_nat 0 _.
Proof.
  lia.
Qed.
```

File: src/Tutorial_Equations_wf.v [hunk 12]
```diff
@@ -0,0 +1,713 @@
...
+
+End LinearSearch.
+
+
+(** ** 3. Different methods to work with well-founded recursion
+
+    When defining a function, it can happen that we loose information
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:550]:
```suggestion
    When defining a function, it can happen that we lose information
```

File: src/Tutorial_Equations_wf.v [hunk 13]
```diff
@@ -0,0 +1,713 @@
...
+    relevant to termination when matching a value, and that we then get
+    stuck trying to prove termination.
+
+    In this section, we discuss two such example an methods to go around the issue.
+    Note, the inspect method was already used in section 2.4.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:555]:
```suggestion
    Note that the inspect method was already used in section 2.4.
```

File: src/Tutorial_Equations_wf.v [hunk 14]
```diff
@@ -0,0 +1,713 @@
...
+Context {A : Type} {lt : A -> A -> Prop} `{WellFounded A lt}.
+Context (f : A -> option A) (decr_f : forall n p, f n = Some p -> lt p n).
+
+(** In this case, given an element (a : A), we may be interested in computing
+    the decreasing chain starting from [a] specified by [f].
+    Naively, we would like to do so as below.
+    That is check if there is an element smaller than [a] by matching [f a]
+    with a [with] clause, if there is one [Some p] then returns [p] added to the
+    chain starting with [p], i.e., our recursive call [f_sequence p], and otherwise
+    stop the computation.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:576]:
```suggestion
    Naively, we would like to do it as follows:
    first, we check if there is an element smaller than [a] by matching [f a]
    with a [with] clause; if there is none, then we stop the computation, otherwise
    we get [Some p] and we returns [p] added to the chain starting with [p],
    i.e., our recursive call [f_sequence p].
```

File: src/Tutorial_Equations_wf.v [hunk 15]
```diff
@@ -0,0 +1,713 @@
...
+Equations? f_sequence (a : A) : list A by wf a lt :=
+  f_sequence a with inspect (f a) := {
+    | Some p eqn: eq1 => p :: f_sequence p;
+    | None eqn:_ => List.nil
+    }.
+Proof.
+  apply decr_f. assumption.
+Qed.
+
+End Inspect.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:628]: Wondering again: this also seems not very specific to well-founded induction, but rather is a general thing for obligations? It might be annoying to move it over though, because then we lose the ability to use this nice example… So maybe it is ok as is.

File: src/Tutorial_Equations_wf.v [hunk 16]
```diff
@@ -0,0 +1,713 @@
...
+eqList [] [] _ := true;
+eqList (a::l) (a'::l') eq := andb (eq a a') (eqList l l' eq);
+eqList _ _ _ := false.
+
+(** Having define an equality test on list, we would like to define an equality
+    test on RoseTree.
+    For technical reasons, the straigthforward definition is not accepted by Coq
+    before Coq v8.20, so we need well-founded recursion on the size of RoseTress
+    to define the equality test.
+    if you are using a subsequent version, assume you need it for pedagogical purposes.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:668]:
```suggestion
```
I don't think it's really necessary to mention this here?

File: src/Tutorial_Equations_wf.v [hunk 17]
```diff
@@ -0,0 +1,713 @@
...
+*)
+
+Equations? f_sequence (a : A) : list A by wf a lt :=
+  f_sequence a with inspect (f a) := {
+    | Some p eqn: eq1 => p :: f_sequence p;
+    | None eqn:_ => List.nil
+    }.
+Proof.
+  apply decr_f. assumption.
+Qed.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:626]:
```suggestion
Equations f_sequence (a : A) : list A by wf a lt :=
  f_sequence a with inspect (f a) := {
    | Some p eqn: eq1 => p :: f_sequence p;
    | None eqn:_ => List.nil
    }.
```

File: src/Tutorial_Equations_wf.v [hunk 18]
```diff
@@ -0,0 +1,713 @@
...
+
+(** Having define an equality test on list, we would like to define an equality
+    test on RoseTree.
+    For technical reasons, the straigthforward definition is not accepted by Coq
+    before Coq v8.20, so we need well-founded recursion on the size of RoseTress
+    to define the equality test.
+    if you are using a subsequent version, assume you need it for pedagogical purposes.
+
+    If we try to define the equality test naively as below, [Equations] generates
+    the obligation [sizeRT l < 1 + list_sum (map sizeRT lt0)] corresponding to
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:671]:
```suggestion
    the obligation [sizeRT l < 1 + list_sum (map sizeRT lt)] corresponding to
```

File: src/Tutorial_Equations_wf.v [hunk 19]
```diff
@@ -0,0 +1,713 @@
...
+    the case where [lt := l :: _].
+    This is obviously true, but we are stuck trying to prove it as we do not
+    remember that [l] in in [lt]:
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:674]:
```suggestion
    remember that [l] is in [lt]:
```

File: src/Tutorial_Equations_wf.v [hunk 20]
```diff
@@ -0,0 +1,713 @@
...
+*)
+
+Equations? eqRT (eq : A -> A -> bool) (t t': RoseTree) : bool by wf (sizeRT t) lt :=
+eqRT eq (leaf a) (leaf a') := eq a a';
+eqRT eq (node lt) (node lt') := eqList lt lt' (fun l l' => eqRT eq l l') ;
+eqRT eq _ _ := false.
+Proof.
+    simp sizeRT.
+    (* What to do know ? We have forgotten that x is in l,
+      and hence that sizeRT l < 1 + list_sum (map sizeRT l0)  *)
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:684]:
```suggestion
      and hence that sizeRT l < 1 + list_sum (map sizeRT lt)  *)
```

File: src/Tutorial_Equations_wf.v [hunk 21]
```diff
@@ -0,0 +1,713 @@
...
+Abort.
+
+(** To go around this kind of issues, a general method is to strengthen the
+    function that goes through the structure to remember that [x] in a subterm of [Y].
+    In our case, it means strengthening [eqList] so that to remember that [l] is
+    a subterm of [lt0], i.e. that [l] is in [lt0].
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:690]:
```suggestion
    in [lt].
```

File: src/Tutorial_Equations_wf.v [hunk 22]
```diff
@@ -0,0 +1,713 @@
...
+    To do so, we ask for the input of the equality test [eq] of [eqList]
+    to additionally be in in [l], i.e. [eq : forall x : X, In x l -> X -> bool].
+    This way, in the case (lt0 := l :: _) we remember [In l lt0].
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:693]:
```suggestion
    This way, in the case (lt := l :: _) we remember [In l lt].
```

File: src/Tutorial_Equations_wf.v [hunk 23]
```diff
@@ -0,0 +1,713 @@
...
+    Doing so, it is now possible to define [eqRT] by well-founded on the size:
+*)
+
+Equations eqList' {X} (l l' : list X) (eq : forall x : X, In x l -> X -> bool) : bool :=
+eqList' [] [] _ := true;
+eqList' (a::l) (a'::l') eq := andb (eq a _ a') (eqList' l l' (fun x Inl y => eq x _ y));
+eqList' _ _ _ := false.
+
+Definition list_sum_ine (x : nat) (l : list nat) : In x l -> x < 1 + list_sum l.
+Admitted.
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:703]:
```suggestion
Proof.
  induction l ; simpl.
  1: easy.
  intros [] ; intuition lia.
Qed.
```

**Review by MevenBertrand — COMMENTED** [review]
Looks good to me! (Up to a big pass of clean-ups). Things are probably not perfect, but *le mieux est l'ennemi du bien* ;)

File: src/Tutorial_Equations_Obligations.v (hunk 6 above)
[the remark this answers is not in the document]
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_Obligations.v:190]: So I have asked and it does enable a better control, btw that is one of the advantage of Next obligation compared to Equation?, but I would rather not talk about it as it is really advanced.

File: src/Tutorial_Equations_wf.v [hunk 24]
```diff
@@ -0,0 +1,713 @@
...
+*)
+
+Print Acc.
+
+(** We then say a relation is well-founded, when forall (a : A), [R] is
+    accessible at [a], i.e. [Acc R a].
+    It ensures that wherever we start at, we can not decrease forever.
+*)
+
+Print well_founded.
```
[the remark this answers is not in the document]
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_wf.v:153]: I don't think so, there is already a lot of content in this tutorial and it is not supposed to be about the concept of wf, I mostly talk about it to make it more accessible

File: src/Tutorial_Equations_wf.v [hunk 25]
```diff
@@ -0,0 +1,713 @@
...
+Qed.
+
+Lemma gcd_spec0 a : gcd a 0 = a.
+Proof.
+  funelim (gcd a 0). all: reflexivity.
+Qed.
+
+Lemma mod_minus a b : b <> 0 -> b < a -> (a - b) mod b = a mod b.
+Proof.
+Admitted.
```
[the remark this answers is not in the document]
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_wf.v:362]: Considering there is no link with funelim and wf, I have omitted this lemma. I am not sure there is a point having a proof.

File: src/Tutorial_Equations_wf.v (hunk 16 above)
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_wf.v:665]: It is mostly becasue I do not want users after coq v20 to look at and ask, "why would you even do that?"

File: src/Tutorial_Equations_wf.v (hunk 23 above)
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_wf.v:700]: I don't think it useful / good practice to prove uninteresting lemma in tutorials

File: src/Tutorial_Equations_wf.v [hunk 26]
```diff
@@ -0,0 +1,713 @@
...
+    In particular, when a function involves recursion on different arguments but
+    not all recursive arguments are smaller at once, it can be practical to use a
+    lexicographic order [<lex].
+    Given two order [<A : A -> A -> Prop] and [<B : B -> B -> Prop],
+    [(a,b) <lex (a',b')] iff [a <A a'] or [a = a'] and [b <B b'].
+    It is practical, as it suffices for one argument to decrease for the recursive
+    call to be smaller.
+    Moreover, [<lex] is well-founded as soon as [<A] and [<B] are.
+
+    A classical example where it is useful, is to define the Ackerman function.
```
[the remark this answers is not in the document]
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_wf.v:391]: I'll see what I can do

File: src/Tutorial_Equations_wf.v (hunk 8 above)
Comment (thomas-lamiaux) [reply src/Tutorial_Equations_wf.v:492]: I am not what is the interrest here. To me it was showing of to declare and use a wf, not how to prove it is wf

**Review by thomas-lamiaux — COMMENTED** [review]
Thanks for looking at it

**Comment by thomas-lamiaux** [comment]
@MevenBertrand could you review the last commit. If all is good for you I'll merge.
Btw if you hadn't noticed there is now automatic type checking and deployment.

File: src/Tutorial_Equations_wf.v [hunk 27]
```diff
@@ -388,8 +388,15 @@ Qed.
     call to be smaller.
     Moreover, [<lex] is well-founded as soon as [<A] and [<B] are.
 
-    A classical example where it is useful, is to define the Ackerman function.
-    Indeed, is terminating as the recursive call are all smaller for the
+    A classical example where it is useful, is to define the Ackerman:
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:391]:
```suggestion
    A classical example where it is useful, is to define the Ackerman function:
```

File: src/Tutorial_Equations_wf.v [hunk 28]
```diff
@@ -388,8 +388,15 @@ Qed.
...
+*)
+
+Fail Equations ack (m n : nat) : nat :=
+ack 0 n := S n;
+ack (S m) 0     := ack m 1;
+ack (S m) (S n) := ack m (ack (S m) n).
+
+(** Indeed, is terminating as the recursive call are all smaller for the
```
Comment (MevenBertrand) [inline src/Tutorial_Equations_wf.v:399]:
```suggestion
(** Indeed, it is terminating as the recursive call are all smaller for the
```

**Review by MevenBertrand — COMMENTED** [review]
:rocket:
